US09376442B2
4-[2-(Cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-N-(trans-4-{[(2S)-2-hydroxypropanoyl]amino}cyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f32) and commercially available (2S)-1-chloro-1-oxopropan-2-yl acetate the title compound is obtained as colorless solid.

reactant | N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)(F)F)OCC2CC2)C
reactant | (2S)-1-chloro-1-oxopropan-2-yl acetate | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | 4-[2-(Cyclopropylmethoxy)-5-(trifluoromethyl)phenyl]-N-(trans-4-{[(2S)-2-hydroxypropanoyl]amino}cyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C(F)(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC([C@H](C)O)=O | C28H32F3N5O4
